.subckt cram#top 1 2 3 4 5
+ 6 7 8 9 10 11 0
md6 1 11 3 1 penh l=3e-06 w=1.4e-05 
+ as=5.6e-11 ad=5.6e-11 ps=3.6e-05 pd=3.6e-05 
m1 12 8 3 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m2 13 8 4 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m3 13 12 2 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m4 2 13 12 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m5 13 12 1 1 penh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m6 1 13 12 1 penh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m7 14 7 3 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m8 15 7 4 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m9 2 14 15 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m10 14 15 2 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
md11 4 10 6 1 penh l=3e-06 w=1.4e-05 
+ as=5.6e-11 ad=5.6e-11 ps=3.6e-05 pd=3.6e-05 
md12 4 9 6 2 nenh l=3e-06 w=1.4e-05 
+ as=5.6e-11 ad=5.6e-11 ps=3.6e-05 pd=3.6e-05 
md13 5 10 3 1 penh l=3e-06 w=1.4e-05 
+ as=5.6e-11 ad=5.6e-11 ps=3.6e-05 pd=3.6e-05 
md14 5 9 3 2 nenh l=3e-06 w=1.4e-05 
+ as=5.6e-11 ad=5.6e-11 ps=3.6e-05 pd=3.6e-05 
md1 15 14 1 1 penh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
md2 1 15 14 1 penh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
md3 1 11 4 1 penh l=3e-06 w=1.4e-05 
+ as=5.6e-11 ad=5.6e-11 ps=3.6e-05 pd=3.6e-05 
cbitoutbar 3 2 5.04e-14
cbitout 4 2 4.62e-14
cbitbar 5 2 6.3e-15
cbit 6 2 1.26e-14
cselect1 7 2 5.4e-15
cselect0 8 2 5.4e-15
cwrite 9 2 1.08e-14
cwritebar 10 2 1.08e-14
cprecharg 11 2 7.2e-15
cI0 12 2 1.08e-14
cI1 13 2 1.17e-14
cI2 14 2 1.08e-14
cI3 15 2 1.17e-14
.ends cram#top

.subckt cram#mid 1 2 3 4 5
+ 6 0
m11 1 8 7 1 penh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m12 8 7 1 1 penh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m13 7 8 2 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m14 2 7 8 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m15 8 4 5 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m16 7 4 6 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m17 1 10 9 1 penh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m18 10 9 1 1 penh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m19 2 10 9 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m20 10 9 2 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m21 10 3 5 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
m22 9 3 6 2 nenh l=3e-06 w=7e-06 
+ as=2.8e-11 ad=2.8e-11 ps=2.2e-05 pd=2.2e-05 
cselect0 3 2 5.4e-15
cselect1 4 2 5.4e-15
cbit 5 2 2.73e-14
cbitbar 6 2 2.73e-14
cI0 7 2 1.08e-14
cI1 8 2 1.17e-14
cI2 9 2 1.08e-14
cI3 10 2 1.17e-14
.ends cram#mid

*
.model penh pmos
+level =2
+vto =-0.988 kp =1.206e-03 gamma =0.619
+phi =0.6
+cgso =4e-10 cgdo =4e-10
+rsh =95 cj =0.00032
+mj =0.5 cjsw =5.5e-10 mjsw =0.33
+tox =5e-08 nsub =8.158e+14
+nss =0 nfs =5.55e+09 tpg =-1
+xj =1.46e-07 ld =2.52e-07 uo =150
+ucrit =54941 uexp =0.17
+vmax =100000 neff =0.01001
+delta =1.129
