.subckt je_1x drain gate source
ze drain gate source VBG jfet04 W=6.5u L=1.0u
.ends

.subckt jd_1x drain gate source
zdfet drain gate source VBG jfet19 W=1.8u L=2.4u
.ends

.subckt ce_1x na nc
cg na nc 2.6f
.ends

.subckt cd_1x na nc
cg na nc .72f
.ends

.subckt jy_1x drain gate source
zdfet drain gate source VBG jfet19 W=1.8u L=2.4u
.ends

.subckt jx_1x drain gate source
zdfet drain gate source VBG jfet19 W=1.8u L=2.4u
.ends

